US04435406
27.2 g of 2-methyl-1,3-benzodioxole, dissolved in 150 ml of glacial acetic acid, were nitrated at 15°-25° C. with 18 ml of nitric acid (d=1.4) in 50 ml of glacial acetic acid. The precipitated crystals were removed by filtration under suction and recrystallized from methanol. There were obtained 28.8 g (79.6% of theory) of 2-methyl-5-nitro-1,3-benzodioxole of melting point 84°-95° C. after sublimation at 0.1 mm/70° C.

reactant | 2-methyl-1,3-benzodioxole | 27.2 g | CC1OC2=C(O1)C=CC=C2 | C8H8O2
reactant | nitric acid | 18 ml | [N+](=O)(O)[O-] | HNO3
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-5-nitro-1,3-benzodioxole | 28.8 g, 79.6% | CC1OC2=C(O1)C=CC(=C2)[N+](=O)[O-] | C8H7NO4
